US09029544B2
(S)-9-(tert-Butyldimethylsilyloxy)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one
1.2 g (S)-4-Isopropyl-9-hydroxy-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one are dissolved in 15 ml tetrahydrofurane and 1.31 ml 2,6-lutidine and 2.44 ml trifluoromethanesulfonic acid-tert.-butyldimethylsilylester are added dropwise and the mixture is stirred for 4 hours at room temperature. Then the reaction is absorbed onto silica gel and chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 50:50).

reactant | (S)-4-Isopropyl-9-hydroxy-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one | 1.2 g | C(C)(C)C1=NC=2CC(C[C@@H](C2C2=C1C(OC21CCOCC1)=O)O)(C)C | C20H27NO4
reactant | 2,6-lutidine | 1.31 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid-tert.-butyldimethylsilylester | 2.44 ml | C(C)(C)(C)[Si](C)(C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | tetrahydrofurane | 15 ml | O1CCCC1 | C4H8O
product | (S)-9-(tert-Butyldimethylsilyloxy)-4-isopropyl-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)C(OC31CCOCC1)=O | C26H41NO4Si
